US07951815B2
1,3-(S)-dibenzyl-8-(4-fluorobenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one (254 mg, 0.9 mmol) was dissolved in ethyl methyl ketone (2.0 mL), water (5 μL), TMSCl (77 μL), and ether (20 mL) were added and the mixture was stirred overnight. The solid matter was isolated by filtration, washed with ether, and dried in vacuo. The product 1,3-(S)-dibenzyl-8-(4-fluorobenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride was obtained in a yield of 242 mg (88%).

reactant | 1,3-(S)-dibenzyl-8-(4-fluorobenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one | 0.9 mmol, 254 mg | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C2=CC=C(C=C2)F)=O)CC2=CC=CC=C2)=O | C28H28FN3O2
reactant | water | 5 μL | O | H2O
reactant | TMSCl | 77 μL | C[Si](C)(C)Cl | C3H9ClSi
reactant | ether | 20 mL | CCOCC | C4H10O
solvent | ethyl methyl ketone | 2.0 mL | CC(=O)CC | C4H8O
product | 1,3-(S)-dibenzyl-8-(4-fluorobenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride | Cl.C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C2=CC=C(C=C2)F)=O)CC2=CC=CC=C2)=O | InChI=1S/C28H28FN3O2.ClH/c29-24-13-11-23(12-14-24)26(33)31-17-15-28(16-18-31)30-25(19-21-7-3-1-4-8-21)27(34)32(28)20-22-9-5-2-6-10-22;/h1-14,25,30H,15-20H2;1H/t25-;/m0./s1
